US06348624B1
3-Methyl-2,4-difluoro-bromobenzene
Diisoproplylamine (11.9 ml, 85 mmol) is dissolved in 50 ml of anhydrous THF and cooled in a dry ice/acetone bath. n-Butyllithium (34 ml of a 2.5 M solution in hexanes, 85 mmol) is added dropwise. After 15 minutes, a solution of 1-bromo-2,4-difluorobenzene (16 g, 83 mmol) in 8 ml of TBF is added at a rate to keep the temperature below −65° C. The reaction is stirred for 2.5 hours then a solution of iodomethane (10.3 ml, 166 mmol) in 8 ml of TBF is added to the reaction. The ice bath is removed and the reaction is allowed to warm to room temperature. After 2 hours the reaction is quenched with water and 1N HCl. The aqueous layer is extracted twice with ether. The combined organics are washed with brine and dried over Na2SO4. Removal of the solvent affords the desired product.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 1-bromo-2,4-difluorobenzene | 83 mmol, 16 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
reactant | iodomethane | 166 mmol, 10.3 ml | IC | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Methyl-2,4-difluoro-bromobenzene | CC=1C(=C(C=CC1F)Br)F | C7H5BrF2
